US05500453
A solution of 2.54 g of lithium sec-butyltriphenylborate in 50 ml of acetonitrile was added to a solution of 5.00 g of bis(p-tert-butylphenyl)phenacyloxosulfonium hexafluorophosphate in 100 ml of acetonitrile, and the resultant mixture was stirred at room temperature for 30 minutes. Then, 200 ml of water was added. The resultant precipitate of a yellow oily component was recovered, and 100 ml of dichloromethane was added. The dichloromethane layer was washed with water, dried and concentrated to give 4.43 g of bis(p-tert-butylphenyl)phenacyloxosulfonium-(sec-butyl)triphenylborate.

reactant | lithium sec-butyltriphenylborate | 2.54 g | C(C)(CC)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Li+]
reactant | bis(p-tert-butylphenyl)phenacyloxosulfonium hexafluorophosphate | 5.00 g | F[P-](F)(F)(F)(F)F.C(C)(C)(C)C1=CC=C(C=C1)[S+](=O)(CC(=O)C1=CC=CC=C1)C1=CC=C(C=C1)C(C)(C)C
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | bis(p-tert-butylphenyl)phenacyloxosulfonium (sec-butyl)triphenylborate | 4.43 g | C(C)(C)(C)C1=CC=C(C=C1)[S+](=O)(CC(=O)C1=CC=CC=C1)C1=CC=C(C=C1)C(C)(C)C.C(C)(CC)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C28H33O2S.C22H24B/c1-27(2,3)22-12-16-24(17-13-22)31(30,20-26(29)21-10-8-7-9-11-21)25-18-14-23(15-19-25)28(4,5)6;1-3-19(2)23(20-13-7-4-8-14-20,21-15-9-5-10-16-21)22-17-11-6-12-18-22/h7-19H,20H2,1-6H3;4-19H,3H2,1-2H3/q+1;-1
